US09108939B2
To a stirred mixture of 4-(3-(cyclopropylmethyl)ureido)benzoic acid (4.99 mmol, 1.170 g), tert-butyl 3-(methylamino)pyrrolidine-1-carboxylate (4.99 mmol, 1 g) and triethylamine (11.98 mmol, 1.670 mL, 1.213 g) in dichloromethane (50 mL) was added N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (5.99 mmol, 1.149 g). The reaction was stirred for 20 hours. Chromatography on silica (eluting with a gradient of dichloromethane to ethyl acetate) gave the intermediate tert-butyl 3-(4-(3-(cyclopropylmethyl)ureido)-N-methylbenzamido)-pyrrolidine-1-carboxylate (2 g).

reactant | 4-(3-(cyclopropylmethyl)ureido)benzoic acid | 4.99 mmol, 1.170 g | C1(CC1)CNC(NC1=CC=C(C(=O)O)C=C1)=O | C12H14N2O3
reactant | tert-butyl 3-(methylamino)pyrrolidine-1-carboxylate | 4.99 mmol, 1 g | CNC1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 11.98 mmol, 1.670 mL, 1.213 g | C(C)N(CC)CC | C6H15N
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 5.99 mmol, 1.149 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl 3-(4-(3-(cyclopropylmethyl)ureido)-N-methylbenzamido)-pyrrolidine-1-carboxylate | 2 g | C1(CC1)CNC(NC1=CC=C(C(=O)N(C)C2CN(CC2)C(=O)OC(C)(C)C)C=C1)=O | C22H32N4O4
